### PR TITLE
feat(Algebra): associated primes of localized module

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
We proved the `Ass(S^{-1}M)` is equal to the preimage of `Ass(M)`  under `Ideal.comap` when over noetherian ring.

From this we proved that every minimal primes over `Module.annihilator R M` is in `Ass(M)` when `M` is finitely generated.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Localization.lean [hunk 1]
```diff
@@ -80,4 +76,70 @@ lemma mem_associatePrimes_localizedModule_atPrime_of_mem_associated_primes
...
+        ← IsLocalizedModule.mk'_smul, hr] using IsLocalizedModule.mk'_zero f s
+    have nmem := Set.disjoint_left.mp ((IsLocalization.disjoint_comap_iff S R' p).mpr hp.ne_top)
+      (∏ a, g a).2
+    have := (Ideal.IsPrime.mul_mem_iff_mem_or_mem prime).mp mem
+    tauto
+
+include S f in
+open Set in
+lemma associatedPrimes_isLocalizedModule_eq_preimage_comap_associatedPrimes [IsNoetherianRing R] :
+    (Ideal.comap (algebraMap R R'))⁻¹' (associatedPrimes R M) = associatedPrimes R' M' := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/AssociatedPrime/Localization.lean:118]:
```suggestion
    (Ideal.comap (algebraMap R R')) ⁻¹' (associatedPrimes R M) = associatedPrimes R' M' := by
```

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Localization.lean [hunk 2]
```diff
@@ -80,4 +76,70 @@ lemma mem_associatePrimes_localizedModule_atPrime_of_mem_associated_primes
...
+  ext p
+  exact ⟨fun h ↦ mem_associatePrimes_of_comap_mem_associatePrimes_isLocalizedModule S R' f p
+    (mem_preimage.mp h),
+    fun h ↦ comap_mem_associatePrimes_of_mem_associatedPrimes_isLocalizedModule_and_fg S R' f p h
+    ((isNoetherianRing_iff_ideal_fg R).mp (by assumption) _)⟩
+
+lemma minimalPrimes_annihilator_mem_associatedPrimes [IsNoetherianRing R] [Module.Finite R M]:
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/AssociatedPrime/Localization.lean:125]:
```suggestion
lemma minimalPrimes_annihilator_mem_associatedPrimes [IsNoetherianRing R] [Module.Finite R M] :
```

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Localization.lean [hunk 3]
```diff
@@ -80,4 +76,70 @@ lemma mem_associatePrimes_localizedModule_atPrime_of_mem_associated_primes
     p.primeCompl (Localization.AtPrime p) (LocalizedModule.mkLinearMap p.primeCompl M)
   simpa [Localization.AtPrime.comap_maximalIdeal] using ass
 
+include S f in
+lemma comap_mem_associatePrimes_of_mem_associatedPrimes_isLocalizedModule_and_fg (p : Ideal R')
+    (ass : p ∈ associatedPrimes R' M') (fg : (p.comap (algebraMap R R')).FG) :
+    p.comap (algebraMap R R') ∈ associatedPrimes R M := by
+  --note : here `p.FG` should imply `(p.comap (algebraMap R R')).FG` however lemmas aren't ready yet
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/AssociatedPrime/Localization.lean:83]: Is this really true? Consider `R = Q[X, Y₁, Y₂, ....]/(XY₁, XY₂, ....)`. The zero ideal in `R[1/X] = Q(X)` is clearly fg and prime, but its preimage is `(Y₁, Y₂, ....)` which is not fg. Or am I missing something?

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Localization.lean:83]: Sorry that I didn't state it clear, here `R'` is the localization of `R`, I remember taking the numerator of the generators would work.

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Localization.lean]: My fault, I remembered it wrongly.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by Thmoas-Guan** [comment]
The work of this PR is now moved to #26210
